US07973051B2
iii) (4-Methoxymethyl-5-methylsulfanyl-thiazol-2-yl)-carbamic acid tert-butyl ester
(4-Methoxymethyl-thiazol-2-yl)-carbamic acid tert-butyl ester (840 mg, 3.4 mmol) was dissolved in dry THF (21 mL). At ˜−75° C. was added dropwise n-butyllithium solution 1.6 M in hexanes. (8.6 ml, 13.7 mmol). The dark-red mixture was stirred at ˜−75° C. for 30 min. At ˜−70° C. was then added dropwise methyl disulfide (970 mg, 10.3 mmol). The resultant yellow colored mixture was slowly warmed to rt and further stirred overnight. After quenching the reaction with saturated ammonium chloride solution, the organic layer was washed with brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. After purification on silica gel with ethyl acetate and n-heptaene as eluents the title compound was obtained as a light yellow solid. (630 mg, 59%) MS (ISP): m/e 291.3 (M−H)+

reactant | (4-Methoxymethyl-thiazol-2-yl)-carbamic acid tert-butyl ester | 3.4 mmol, 840 mg | C(C)(C)(C)OC(NC=1SC=C(N1)COC)=O | C10H16N2O3S
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | methyl disulfide | 10.3 mmol, 970 mg | CSSC | C2H6S2
solvent | THF | 21 mL | C1CCOC1 | C4H8O
product | (4-Methoxymethyl-5-methylsulfanyl-thiazol-2-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1SC(=C(N1)COC)SC)=O | C11H18N2O3S2
